US08530493B2
E5. 5-Cyclopropylmethoxy-1H-indol
To a solution of 7.3 g 5-hydroxy-indole in 130 ml of dry acetone are added 10.5 ml bromomethyl cyclopropane and 22.7 g anhydrous potassium carbonate. The mixture is heated to reflux for 24 h and an additional amount of 5 ml bromomethyl cyclopropane are added. The mixture is heated to reflux for additional 4 days. The mixture is filtered and the solvent is removed under reduced pressure. The residue is dissolved in dichloro methane and washed with an aqueous solution of hydrochloric acid (2 M), 10% aq. NaHCO3 and water. The organic layer is dried and the solvent is removed under reduced pressure. After purification by column chromatography (silica gel; toluene, acetone 95:5), 9.62 g, 94%) of the title compound are obtained as an oil. 1H-NMR (CDCl3): 0.36 (m, 2H, cyclopropyl CH2), 0.64 (m, 2H, cyclopropyl CH2), 1.30 (m, 1H, cyclopropyl CH), 3.83 (d, 2H, J=7.0 Hz, CH2O), 6.45 (s, 1H, aromatic), 6.90 (dd, 1H, aromatic), 7.09-7.27 (m, 3H, aromatic), 8.05 (bs, 1H, NH). 13C-NMR (CDCl3): 3.1 (2 cyclopropyl CH2), 10.4 (cyclopropyl CH), 74.2 (CH2O), 101.2, 101.6, 104.0, 104.6, 149.8 (aromatic)

reactant | 5-hydroxy-indole | 7.3 g | OC=1C=C2C=CNC2=CC1 | C8H7NO
reactant | bromomethyl cyclopropane | 10.5 ml | BrCC1CC1 | C4H7Br
reactant | potassium carbonate | 22.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | bromomethyl cyclopropane | 5 ml | BrCC1CC1 | C4H7Br
solvent | acetone | 130 ml | CC(=O)C | C3H6O
product | 5-Cyclopropylmethoxy-1H-indol | C1(CC1)COC=1C=C2C=CNC2=CC1 | C12H13NO
